.subckt freq_div_2 clock Q
X1 N004 N002 0 0 sky130_fd_pr__nfet_01v8 l={L} w={W}
VDD VDD 0 1.8
X2 VDD N002 N004 VDD sky130_fd_pr__pfet_01v8 l={L} w={3*W}
X5 N003 N004 0 0 sky130_fd_pr__nfet_01v8 l={L} w={W}
X6 VDD N004 N003 VDD sky130_fd_pr__pfet_01v8 l={L} w={3*W}
X7 D clock_b N002 0 sky130_fd_pr__nfet_01v8 l={L} w={W}
X3 N002 clock D VDD sky130_fd_pr__pfet_01v8 l={L} w={3*W}
X4 N002 clock N003 0 sky130_fd_pr__nfet_01v8 l={L} w={W}
X8 N003 clock_b N002 VDD sky130_fd_pr__pfet_01v8 l={L} w={3*W}
X9 Q N001 0 0 sky130_fd_pr__nfet_01v8 l={L} w={W}
X10 VDD N001 Q VDD sky130_fd_pr__pfet_01v8 l={L} w={3*W}
X11 D Q 0 0 sky130_fd_pr__nfet_01v8 l={L} w={W}
X12 VDD Q D VDD sky130_fd_pr__pfet_01v8 l={L} w={3*W}
X13 N004 clock N001 0 sky130_fd_pr__nfet_01v8 l={L} w={W}
X14 N001 clock_b N004 VDD sky130_fd_pr__pfet_01v8 l={L} w={3*W}
X15 N001 clock_b D 0 sky130_fd_pr__nfet_01v8 l={L} w={W}
X16 D clock N001 VDD sky130_fd_pr__pfet_01v8 l={L} w={3*W}
X17 clock_b clock 0 0 sky130_fd_pr__nfet_01v8 l={L} w={W}
X18 VDD clock clock_b VDD sky130_fd_pr__pfet_01v8 l={L} w={3*W}
.ends freq_div_2

